Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Cerebellar brain mass
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI as per Dr. ___:
___ year old lady with history of arthritis,
hypertension and remote history of ovarian cancer who presented
to outside hospital for confusion and was found to have new 
onset
Afib, ___ and ___ brain tumor was noted on head CT prompting
transfer to ___ for oncology services.

Per family, pt has had worsening memory over past few months.
Today, called her daughter reporting dizziness. Pt's PCP
instructed her to go to ER. Pt denies falls, is A&Ox3. Pt also
presents with bruising and hematoma to R wrist, states that
happened today but unsure how. She denies headaches, changes in
vision, vertigo. 

At outside hospital patient was found to be in A. fib at 117. 
She
was given 1L NS. Labs and urine were unremarkable. CT had showed
widespread metastatic disease. Patient could not be admitted at
that facility as did not have oncology coverage. White count was
12.1. Creatinine 1.4. CT read notable for scattered bilateral
subcortical low-attenuation/vasogenic edema as well as right
cerebellar hemisphere mass lesion, suspicious for brain
metastases.

In the ED: 
VS: T 98.7, P 86-92, BP 129/67, 97% on RA
PE: 5 strength, normal sensation throughout, moderate dysmetria
with right finger-nose-finger though no past pointing, mild
dysmetria on left though no pass pointing with 
finger-nose-finger
Labs: 
 .CBC: 10.7 > 11.4 / 34.1 < 270, MCV 94, 53.8% PMNs
 .BMP: 142 / 4.2 // 100/ 25 // 29 / 1.5 < 107, AG 17
Imaging: outside imaging reviewed and as noted above
Impression: Admit for intermittent altered mental status, new
brain metastases, ___
Interventions: 10mg IV dexamethasone 

At baseline, patient lives alone and is generally independent in
her ADLs and iADLs including driving. She does use a walker for
ambulation and per family has had recent worsening in left lower
extremity pain. Patient reports that she feels fine. Denies 
chest
pain, cough, shortness of breath, fever, chills, abdominal pain,
nausea, vomiting, diarrhea, dysuria. Up until now she has been
generally healthy and has not had any hospitalizations or 
complex
medical issues. She states that she usually just sees her doctor
for routine care and gets a clean ___ of health.

On arrival to floor patient states that she does not want any
aggressive measures as she is ___ years old and there's no reason
to pursue any surgeries or other aggressive measures. She
requests that we focus more on treating symptoms such as pain as
they come, but otherwise no need to ___ things much further. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative.     

PREADMISSION MEDICATIONS:
Patient was unable to recall, per family, possibly amlodipine 
5mg daily. 
No other medications per family

 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
Hypertension 
Arthritis
History of Ovarian Cancer - remote, in remission since initial
treatment at age ~___
 
Social History:
___
Family History:
FAMILY HISTORY: Reviewed and found to be not relevant to this
illness/reason for hospitalization.  
 
Physical Exam:
DISCHARGE EXAM:
VITALS: 98.1F BP 134 / 80, HR 76, RR 20, 97% Ra  
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  

CV: Heart irregularly irregular, crescendo systolic ___ murmur 
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities 
PSYCH: pleasant, appropriate affect
NEUROLOGIC:
MENTATION: alert and cooperative. Oriented to person and place
and time.
 
Pertinent Results:
COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD Plt 
Ct 
___ 06:30    15.2* 3.31* 10.3* 31.1* 94 31.1 33.1 13.2 
45.3 244 
___ 08:00    14.0* 3.33* 10.5* 31.1* 93 31.5 33.8 13.0 
44.8 242 
___ 07:40    6.2 3.58* 11.3 33.5* 94 31.6 33.7 13.2 44.9 
248 
DIFFERENTIAL Neuts Bands Lymphs Monos Eos Baso Atyps Metas Im 
___ AbsLymp AbsMono AbsEos AbsBaso 
___ 07:40    85.0*   12.6* 1.0* 0.2* 0.2     1.0*1 5.29 
0.78* 0.06* 0.01* 0.01 
RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 08:14    102*1 29* 1.1 140 4.3 100 24 162 
ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase 
TotBili DirBili 
___ 07:40    12 18     72   1.0   

___BD & PELVIS WITH CO   
IMPRESSION: 
  
  
1. No evidence of intra-abdominal malignancy. 
2. Please see report from CT chest for the intrathoracic 
findings. 
3. Post hysterectomy without evidence of a adnexal abnormality. 
4. Diverticulosis.  Simple renal cysts. 

===================
___HEST W/CONTRAST
IMPRESSION:  
  
No evidence of intrathoracic malignancy or active infection. 
  
Severe calcific aortic stenosis, moderate cardiomegaly, 
pulmonary 
hypertension, and moderate to severe atherosclerosis including 
coronary 
arteries.  No pulmonary edema or other evidence of acute cardiac 

decompensation. 

===================
___ Imaging MR HEAD W & W/O CONTRAS 
FINDINGS:  
  
The right cerebellum, there is extensive enhancement identified 
the site of 
FLAIR abnormality extending to the cerebellar folia both 
superiorly as well as 
inferiorly.  There is mass effect on the right side of the 
fourth ventricle 
but there is no hydrocephalus.  No other areas of abnormal 
enhancement are 
seen.  No leptomeningeal enhancement is seen. 
  
IMPRESSION:  
  
Extensive enhancement is seen at the site of previously seen 
FLAIR 
abnormality.  The pattern of enhancement as well as previously 
seen pattern on 
the pre gadolinium images are suggestive of metastatic disease. 
  

=================== 
___ Imaging MR HEAD W/O CONTRAST     
IMPRESSION:  
  
Stable exam compared to outside CT from ___. 
No acute infarcts. 
Extensive edema in the right cerebellar hemisphere, suggestion 
of underlying 
mass,, metastasis, or posttreatment change, with local mass 
effect, mild 
tonsillar crowding at foramen magnum..  Post gadolinium images 
would be 
helpful. 
Extensive confluent deep white matter, subcortical cerebral T2 
signal 
abnormalities, may be sequela of chronic small vessel ischemic 
changes, 
posttreatment change.  Subcortical metastases could be obscured. 
 Post 
gadolinium images would be helpful. 
  
RECOMMENDATION(S):  Post gadolinium brain MRI, also to include 
pre gadolinium 
axial T1. 
 
===================
___ Imaging DX FOREARM & WRIST 
IMPRESSION:  
  
1.  Moderate soft tissue swelling along the ulnar aspect of the 
wrist likely 
corresponds with known hematoma. 
2.  Faint amorphous mineralization along the dorsal aspect of 
the triquetrum 
has an appearance more consistent with chondrocalcinosis rather 
than small 
avulsive type fracture.  No frank acutely displaced fracture the 
right wrist 
or forearm. 

 
Brief Hospital Course:
TRANSITIONAL ISSUES:
-Patient should discuss with primary care physician about any 
further evaluation and management of here cerebellar mass.
-Dexamethasone has been tapered to 2 mg orally twice daily upon 
discharge, which will continue until further instructions by 
PCP, and while pending further goals of care discussion on any 
further workup and management of her cerebellar mass.
-Patient should discuss further with her primary care physician 
about her new diagnosis of atrial fibrillation, regarding 
whether anticoagulation is the right choice. She may also have 
an echocardiogram, ___ labwork to further evaluate the cause, if 
this is within her goals of care.

HOSPITAL COURSE:
Ms. ___ is a ___ year old lady with history of arthritis,
hypertension and remote history of ovarian cancer who presented
to outside hospital for confusion and was found to have new 
onset
Afib, ___, and new brain tumor that was noted on head CT, which 
prompted transfer to ___ for further management.

The patient had resolution of acute confusion at ___. She was 
noted to be in stable HR during her stay regarding her atrial 
fibrillation, and was placed on metoprolol 25 mg XL once daily. 
She has CHADS2VASC of 4, and the patient chose to defer 
anticoagulation decision and workup with echocardiogram as an 
outpatient, to discuss with her PCP.

Her ___ resolved with volume repletion with IVF. 

As for her brain mass, she was seen by neuro-oncology consult. 
MRI head with and without contrast was performed. 
It showed that in the right cerebellum, there is "extensive 
enhancement identified the site of FLAIR abnormality extending 
to the cerebellar folia both superiorly as well as  inferiorly." 


She underwent CT chest, abdomen, pelvis with contrast which did 
not demonstrate any
primary tumor. If the patient were to pursue further workup, she 
might undergo a mammogram to further evaluate for a breast 
cancer primary.
She was continued on dexamethasone for the vasogenic edema and 
tapered from IV formulation. She was placed on 2 mg PO twice 
daily on discharge. There was no evidence of seizure since 
admission. AEDs are withheld. 
The patient however, at this time does not want further 
treatment plans or evaluation. 

She was seen by ___ who recommended rehab. We discussed with the 
patient and she was able to
demonstrate full capacity and understood she had a higher risk 
of falls if she did not choose ___ rehab, and that a 
higher risk of falls predisposes her to debilitation, serious 
injury or death if they were to occur. She was agreeable
to services at home to assist with daily activities to mitigate
this risk.
This was discussed with the daughter (health care proxy) who 
agreed with patient's decision to refuse rehab and to respect 
her wish to return home in a safe
discharge. The patient's granddaughters are also available to 
help with the patient until at least home services are 
implemented either on ___ or ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 

 
Discharge Medications:
1.  Dexamethasone 2 mg PO Q12H 
RX *dexamethasone 2 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once daily 
Disp #*30 Tablet Refills:*0 
3.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth once daily Disp #*30 
Capsule Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cerebellar mass, likely malignant and presumably metastatic, 
with associated edema
Atrial fibrillation

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Instructions: Dear Ms. ___, 

It was a pleasure to be a part of your care team at ___ 
___.

====================================
Why did you come to the hospital? 
====================================

-You were transferred from an outside hospital to ___ for 
further evaluation of an abnormality seen on scan of the brain.

====================================
What happened at the hospital? 
====================================

-You were hospitalized for evaluation of a brain abnormality 
seen on scan of the brain, and MRI brain confirmed there is mass 
in the cerebellum with associated edema. It is very likely that 
this mass represents a type of cancer. We started you on a 
steroid, dexamethasone, to treat the swelling in the brain.
-You were also found to have atrial fibrillation, which is a new 
diagnosis for you, at the outside hospital. You were started on 
a medication, metoprolol, to control the heart rate.

==================================================
What needs to happen when you leave the hospital? 
==================================================

-Please discuss with your primary care physician and your family 
about any further evaluation and management of your brain mass.
-Please discuss further with your primary care physician about 
your atrial fibrillation, regarding whether anticoagulation is 
the right choice for you.
-Take your medications every day as directed.

It was a pleasure taking care of you during your stay! 

Sincerely, 

Your ___ team  

 
Followup Instructions:
___